US07666878B2
To an ice-cooled stirring suspension of NaH (60% dispersion in mineral oil; 63 mg, 1.6 mmol) in THF (3 mL) is added a solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (200 mg, 1 mmol) in 3:1 THF/DMF (4 mL). After 45 minutes, a solution of 3,4-dichloro-benzenesulfonyl chloride (214 μL, 1.4 mmol) in THF (3 mL) is added. After 10 minutes, the reaction mixture is added to ice/water and extracted with EtOAc. The organic layer is washed with brine and evaporated. The crude product is purified by flash chromatography (3:1 iso-hexane/EtOAc elution), to afford [1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester; MH+=413.

reactant | NaH | 1.6 mmol, 63 mg | [H-].[Na+]
reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 1 mmol, 200 mg | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | THF DMF | 4 mL | C1CCOC1.CN(C)C=O
reactant | 3,4-dichloro-benzenesulfonyl chloride | 1.4 mmol, 214 μL | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | [1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)Cl)Cl)C)=O | C17H14Cl2N2O4S
